US04556672
5-Benzoyl-2-oxindole-1-carboxamide
A mixture of 10.1 g. (42 mmole) of 5-benzoyl-2-oxindole, 4.4 ml. (51 mmole) of chlorosulfonyl isocyanate and 300 ml. of tetrahydrofuran was stirred at room temperature for 6 hours, and then the solvent was removed by evaporation in vacuo. The residue was added to 150 ml. of glacial acetic acid and 300 ml. of water and the resulting mixture was heated under reflux for 2 hours. The reaction mixture was cooled and the supernatant liquid was removed by decantation. The remaining gummy residue was triturated under acetonitrile to give a solid which was recovered by filtration and then recrystallized from a 1:1 mixture of n-propanol and acetonitrile. This gave 4.1 g. of the title compound as a solid, mp. 210°-211° C.

reactant | 5-benzoyl-2-oxindole | 42 mmole | C(C1=CC=CC=C1)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11NO2
reactant | chlorosulfonyl isocyanate | 51 mmole | ClS(=O)(=O)N=C=O | CClNO3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Benzoyl-2-oxindole-1-carboxamide | C(C1=CC=CC=C1)(=O)C=1C=C2CC(N(C2=CC1)C(=O)N)=O | C16H12N2O3
